US04918074
To the crude 1-phenyl-2-piperidinoethyl α-acetyl-3-nitrocinnamate, which was synthesized by reacting 30 g of 3-nitrobenzaldehyde with 67 g of 1-phenyl-2-piperidinoethyl acetoacetate, is added 500 ml of ethanol solution of 2-aminoimidazole prepared from 26.4 g of 2-aminoimidazole sulfate and sodium hydroxide, and then stirred at 50° C. for 5 hours. After cooling, the precipitated crystals are collected by filtration and recrystallized from ethanol to give 9.7 g of 1-phenyl-2-piperidinoethyl 7-methyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine-6-carboxylate, melting at 205°-206° C. as one diastereomer (α-form). Then, the filtrate is concentrated under reduced pressure, and the residue is purified by column chromatography on silica gel with chloroform-ethyl acetate-ethanol eluents. The crystals thus obtained are recrystallized from a mixture of chloroform and ethanol to give 4.8 g of 1-phenyl-2-piperidinoethyl 7-methyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine-6-carboxylate, melting at 216° -217° C. with decomposition as the other diastereomer (β-form).

reactant | 1-phenyl-2-piperidinoethyl α-acetyl-3-nitrocinnamate | C(C)(=O)C(C(=O)OC(CN1CCCCC1)C1=CC=CC=C1)=CC1=CC(=CC=C1)[N+](=O)[O-] | C24H26N2O5
reactant | 3-nitrobenzaldehyde | 30 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 1-phenyl-2-piperidinoethyl acetoacetate | 67 g | C(CC(=O)C)(=O)OC(CN1CCCCC1)C1=CC=CC=C1 | C17H23NO3
reactant | 2-aminoimidazole | NC=1NC=CN1 | C3H5N3
reactant | 2-aminoimidazole sulfate | 26.4 g | S(=O)(=O)(O)O.NC=1NC=CN1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 1-phenyl-2-piperidinoethyl 7-methyl-5-(3-nitrophenyl)-5,8-dihydroimidazo[1,2-a]pyrimidine-6-carboxylate | 9.7 g | CC=1NC=2N(C(C1C(=O)OC(CN1CCCCC1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C=CN2 | C27H29N5O4
